2124-06-10 08:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2124-6-9**] 12:00 PM
   .
   - pt with resp distress in AM, intubated on AC requiring increasing
   minute ventilation
   - restarted on levophed now on 0.04
   - due to pt reporting pain and dysynchronous breathing increased
   versed/fentanyl
   - given 500cc bolus
   - HCT 21 this AM, gave 1U pRBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-6-8**] 10:05 PM
   Bactrim (SMX/TMP) - [**2124-6-8**] 10:10 PM
   Voriconazole - [**2124-6-9**] 06:02 PM
   Vancomycin - [**2124-6-9**] 09:57 PM
   Meropenem - [**2124-6-10**] 04:00 AM
   Tobramycin - [**2124-6-10**] 05:48 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Propofol - [**2124-6-9**] 10:00 AM
   Pantoprazole (Protonix) - [**2124-6-9**] 02:00 PM
   Enoxaparin (Lovenox) - [**2124-6-9**] 08:21 PM
   Midazolam (Versed) - [**2124-6-9**] 10:15 PM
   Fentanyl - [**2124-6-10**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-6-10**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 76 (76 - 118) bpm
   BP: 114/57(75) {93/46(63) - 148/78(101)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 77.5 kg
   Height: 67 Inch
    CVP: 11 (9 - 15)mmHg
   Total In:
                                                                  2,031 mL
                                                                  1,317 mL
   PO:
   TF:
                                                                     46 mL
                                                                    290 mL
   IVF:
                                                                  1,865 mL
                                                                    967 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    360 mL
   Urine:
                                                                  1,095 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    936 mL
                                                                    957 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 58
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.37/59/153/30/7
   Ve: 9.9 L/min
   PaO2 / FiO2: 306
   Physical Examination
   General: Chronically ill appearing, oriented and able to follow
   commands, labored breathing
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP difficult to assess, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: 2+ pitting edema b/l, Warm, well perfused, 2+ pulses, no clubbing,
   cyanosis
   Labs / Radiology
   187 K/uL
   6.7 g/dL
   154 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.4 mEq/L
   22 mg/dL
   106 mEq/L
   142 mEq/L
   21.0 %
   5.6 K/uL
        [image002.jpg]
                             [**2124-6-9**]  02:13 AM
                             [**2124-6-9**]  03:58 AM
                             [**2124-6-9**]  06:28 AM
                             [**2124-6-9**]  08:54 AM
                             [**2124-6-9**]  11:40 AM
                             [**2124-6-9**]  02:25 PM
                             [**2124-6-9**]  09:54 PM
                             [**2124-6-10**]  12:42 AM
                             [**2124-6-10**]  05:02 AM
                             [**2124-6-10**]  06:55 AM
   WBC
   9.2
   5.6
   Hct
   27.1
   21.0
   Plt
   231
   187
   Cr
   0.5
   0.4
   TCO2
   38
   35
   36
   36
   36
   36
   35
   35
   Glucose
   124
   154
   Other labs: ALT / AST:52/41, Alk Phos / T Bili:440/0.3, Lactic Acid:1.1
   mmol/L, Albumin:2.9 g/dL, LDH:296 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.6 mg/dL
   .
   .
   BAL: GNR 10-100K (?2 colonies);
     Gram stain:
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         1+    (<1 per 1000X FIELD):   COLUMNAR EPITHELIAL CELLS.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.  IN PAIRS,
   CHAINS, AND CLUSTERS.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   .
   58M with h/o CML, failed Gleevac, s/p HSCT in [**9-22**] complicated by GVHD
   on chronic suppression, history of PE a/w multifocal pneumonia, who
   presents to the [**Hospital Unit Name 44**] following bronchoscopy complicated by respiratory
   distress.
   .
   # Respiratory distress:  Felt to be secondary to components of
   bronchospasm and fluid overload in setting of procedure and
   hypertension.  Also on differential are aspiration and progression of
   multifocal pneumonia. Intubated from noninvasives yesterday [**12-20**] resp
   distress with difficulty ventilating and inc work of breathing. Pt has
   had inc secretions overnight and is breathing over the vent at 20-22.
   Not ready for extubation yet, but will wean.
   - on 200 fentanyl, 4 versed will wean appropriately
   - will wean to pressure support
   .
   # Hypotension: In setting of antihypertensives and diuresis.  Worsening
   infection is a possibility.  Post-procedure increased inflammatory
   response also possible.  Relative adrenal insufficiency maybe
   contributing. Baseline BP in 120s. Need to treat underlying cause,
   probably infection.
   - IVF to CVP 10, and levophed at 0.04, will wean today
   - per ID: Cont vanc/[**Last Name (un) 430**]/tobra/vori (can broaden to include VRE if
   worsens)
   - If febrile, persistently hypotensive, or +Bcx, plan to pull PICC line
   - cont Hydrocort 50 mg IV Q6
   - Hold BB
   .
   # Pneumonia: Multifocal pneumonia with ESBL e.coli in sputum.
   - ID: vanc/[**Last Name (un) 430**]/tobra/vori / Prophylactic bactrim // thought VRE was
   unlikely despite past history
   - f/u BAL results
   - Broaden coverage as above if decompensates
   - Cx-ray in AM
   .
   # Anemia: Pt had 24 hr HCT drop from 27 to 21, Plts 231 -> 187, WBC 9.2
   -> 5.6. Etiology could be hemolysis/DIC vs diluational vs bone marrow
   suppression (pt is on many drugs, and new antibiotics). No recent
   instrumentation/lines placed for RP bleed concern.
   - f/u hemolysis/DIC labs
   - given 1U pRBC this AM, may also help to give colloid given pt is
   probably 3^rd spacing (albumin 2.5)
   - guiaic stools
   - can CT scan if pt is still bleeding
   .
   # Transaminitis: Near baseline.  MRI liver negative or acute process.
   - Cont trend
   .
   # CML:
   - Cont bactrim and acyclovir for PPX
   - Per primary oncologist
   .
   # History of PE:
   On lovenox
   .
   # Pain:
   - Holding fentanyl patch, lidocaine patches in acute setting
   .
   # Chronic GVHD:
   - Cont budesonide, high dose steroids and cellcept
   - Cellcept level in AM
   .
   ICU Care
   Nutrition: TF per nutrition
   Glycemic Control:
   Lines:
   PICC Line - [**2124-6-8**] 03:42 PM
   Multi Lumen - [**2124-6-8**] 09:22 PM
   Arterial Line - [**2124-6-9**] 01:29 AM
   Prophylaxis:
   DVT: lovenox 30 [**Hospital1 **]
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  Brother
   [**Name (NI) 66**] status: Full code per discussion
   Disposition: ICU

2124-06-11 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --changed vent settings to pressure support from 1600 ([**6-10**]) to 0700
   ([**6-11**]) but back to volume control at that time because of worsening
   ventilation.
   --started midazolam 3mg/hr and fentanyl 150mcg/hr drips.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-6-8**] 10:05 PM
   Bactrim (SMX/TMP) - [**2124-6-8**] 10:10 PM
   Vancomycin - [**2124-6-10**] 08:18 PM
   Tobramycin - [**2124-6-11**] 12:30 AM
   Meropenem - [**2124-6-11**] 04:02 AM
   Voriconazole - [**2124-6-11**] 06:07 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-6-11**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 87 (74 - 99) bpm
   BP: 144/71(92) {99/43(61) - 144/71(92)} mmHg
   RR: 25 (11 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.3 kg (admission): 77.5 kg
   Height: 67 Inch
    CVP: 26 (9 - 26)mmHg
   Total In:
                                                                  4,202 mL
                                                                  1,077 mL
   PO:
   TF:
                                                                  1,476 mL
                                                                    532 mL
   IVF:
                                                                  2,179 mL
                                                                    505 mL
   Blood products:
                                                                    288 mL
   Total out:
                                                                  1,190 mL
                                                                    475 mL
   Urine:
                                                                  1,190 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,012 mL
                                                                    602 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 714 (583 - 714) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 42
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.30/69/78.[**Numeric Identifier 244**]/30/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General: Chronically ill appearing, sedated but able to follow
   commands, intubated
   HEENT: Sclera anicteric,
   Neck: supple, JVP difficult to assess, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: 2+ pitting edema b/l, Warm, well perfused, 2+ pulses, no clubbing,
   cyanosis
   Labs / Radiology
   157 K/uL
   7.9 g/dL
   171 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.5 mEq/L
   23 mg/dL
   107 mEq/L
   144 mEq/L
   24.2 %
   6.5 K/uL
        [image002.jpg]
   BAL Cx: GNRs
                             [**2124-6-10**]  12:42 AM
                             [**2124-6-10**]  05:02 AM
                             [**2124-6-10**]  06:55 AM
                             [**2124-6-10**]  08:23 AM
                             [**2124-6-10**]  05:16 PM
                             [**2124-6-10**]  05:41 PM
                             [**2124-6-10**]  07:06 PM
                             [**2124-6-10**]  11:19 PM
                             [**2124-6-11**]  03:41 AM
                             [**2124-6-11**]  04:47 AM
   WBC
   5.6
   6.0
   6.5
   Hct
   21.0
   22.4
   23.8
   24.2
   Plt
   187
   163
   157
   Cr
   0.4
   0.4
   TCO2
   35
   35
   34
   34
   35
   35
   Glucose
   154
   171
   Other labs: PT / PTT / INR:10.1/28.2/0.8, ALT / AST:52/41, Alk Phos / T
   Bili:440/0.1, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:1.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL,
   LDH:244 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   58M with h/o CML, failed Gleevac, s/p HSCT in [**9-22**] complicated by GVHD
   on chronic suppression, history of PE a/w multifocal pneumonia, who
   presents to the [**Hospital Unit Name 44**] following bronchoscopy complicated by respiratory
   distress.
   .
   # Respiratory distress:  Felt to be secondary to components of
   bronchospasm and fluid overload in setting of procedure and
   hypertension.  Also on differential are aspiration and progression of
   multifocal pneumonia. Intubated from noninvasives yesterday [**12-20**] resp
   distress with difficulty ventilating and inc work of breathing. Not
   ready for extubation yet, but will try to wean.
   - on 150 fentanyl, 3 versed will wean appropriately
   - will try to wean to pressure support
   # Pneumonia: Multifocal pneumonia with ESBL e.coli in sputum.
   - ID: vanc D2/[**Last Name (un) 430**] D16/tobra D1/vori D2(tx dose)/ Prophylactic bactrim
   // thought VRE was unlikely despite past history
   - f/u BAL results
   - Broaden coverage as above if decompensates
   - Cx-ray in AM
   .
   # Hypotension: In setting of antihypertensives and diuresis or
   worsening infection are the most likely causes.  Post-procedure
   increased inflammatory response also possible.  Relative adrenal
   insufficiency maybe contributing. Baseline BP in 120s, current BPs
   stable in 100s-120s, off pressors. Need to treat underlying cause,
   probably infection.
   - IVF to CVP 10
   - per ID: Cont vanc/[**Last Name (un) 430**]/tobra/vori (can broaden to include VRE if
   worsens)
   - If febrile, persistently hypotensive, or +Bcx, plan to pull PICC line
   - dcd hydrocort, started prednisone at home dose
   - Hold BB
   .
   # Anemia: Pt had 24 hr HCT drop from 27 to 21, Plts 231 -> 187, WBC 9.2
   -> 5.6, on [**6-10**]. Etiology could be hemolysis/DIC vs diluational vs bone
   marrow suppression (pt is on many drugs, and new antibiotics). No
   recent instrumentation/lines placed for RP bleed concern.  Currently
   stable, slightly elevated Retic count at 3.8 and fibrinogen at 440, nl
   hapto at 179 and LDH at 244.
   - f/u cbc
   - can CT scan if pt Hct drops
   .
   # Transaminitis: Near baseline.  MRI liver negative or acute process.
   - Cont trend
   .
   # CML:
   - Cont bactrim and acyclovir for PPX
   - Per primary oncologist
   .
   # History of PE:
   On lovenox
   .
   # Pain:
   - re-started fentanyl patch, lidocaine patch
   .
   # Chronic GVHD:
   - Cont budesonide, home dose steroids and cellcept
   ICU Care
   Nutrition: Tube feeds
   Replete with Fiber (Full) - [**2124-6-11**] 05:15 AM 79.[**Telephone/Fax (3) 9786**]
   mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-6-8**] 03:42 PM
   Multi Lumen - [**2124-6-8**] 09:22 PM
   Arterial Line - [**2124-6-9**] 01:29 AM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI
   VAP:  30 degree elevation of head of bed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care

2124-06-17 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --pain: D/C morphine. Started on IV methadone with pain scale, received
   31mg overnight.
   --ID: started on Zosyn. D/C cipro
   --On CPap overnight, tolerating high flow this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2124-6-16**] 06:01 AM
   Vancomycin - [**2124-6-16**] 08:18 PM
   Acyclovir - [**2124-6-16**] 08:18 PM
   Bactrim (SMX/TMP) - [**2124-6-16**] 08:18 PM
   Tobramycin - [**2124-6-17**] 12:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-6-17**] 06:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-6-16**] 08:00 AM
   Methadone Hydrochloride - [**2124-6-17**] 04:30 AM
   Enoxaparin (Lovenox) - [**2124-6-17**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-6-17**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 74 (59 - 85) bpm
   BP: 129/61(83) {82/48(66) - 156/74(101)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 77.5 kg
   Height: 67 Inch
    CVP: 15 (8 - 16)mmHg
   Total In:
                                                                  1,830 mL
                                                                    408 mL
   PO:
                                                                    300 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,180 mL
                                                                    348 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,885 mL
                                                                  1,055 mL
   Urine:
                                                                  2,885 mL
                                                                  1,055 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,055 mL
                                                                   -647 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 592 (592 - 659) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 60%
   SpO2: 99%
   ABG: 7.39/55/106/31/7
   Ve: 11.2 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General: Chronically ill appearing, awake, alert, nad
   HEENT: Sclera anicteric,
   Neck: supple, JVP difficult to assess, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft,  mildly tender, mildly distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: 1+ pitting edema b/l (improving), Warm, well perfused, 2+ pulses,
   no clubbing, cyanosis
   Skin:  multiple echymoses and lesions, decreased area of erythema on
   RLE.
   Labs / Radiology
   187 K/uL
   8.2 g/dL
   92 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.0 mEq/L
   25 mg/dL
   102 mEq/L
   139 mEq/L
   25.1 %
   5.9 K/uL
        [image002.jpg]
                             [**2124-6-15**]  01:33 PM
                             [**2124-6-15**]  04:54 PM
                             [**2124-6-15**]  04:58 PM
                             [**2124-6-15**]  11:06 PM
                             [**2124-6-16**]  03:03 AM
                             [**2124-6-16**]  03:53 AM
                             [**2124-6-16**]  08:32 AM
                             [**2124-6-16**]  04:29 PM
                             [**2124-6-17**]  03:40 AM
                             [**2124-6-17**]  04:31 AM
   WBC
   6.5
   5.9
   Hct
   29.2
   25.1
   Plt
   204
   187
   Cr
   0.5
   0.5
   0.5
   TCO2
   33
   33
   33
   33
   34
   33
   35
   Glucose
   88
   87
   92
   Other labs: PT / PTT / INR:10.2/27.0/0.8, ALT / AST:44/37, Alk Phos / T
   Bili:555/0.3, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:1.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.5 mmol/L, Albumin:2.4 g/dL,
   LDH:274 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   58M with h/o CML, failed Gleevac, s/p HSCT in [**9-22**] complicated by GVHD
   on chronic suppression, history of PE a/w multifocal pneumonia, who
   presents to the [**Hospital Unit Name 44**] following bronchoscopy complicated by respiratory
   distress that required intubation, and then difficult extubation.
   .
   # Respiratory failure:  Felt to be secondary to components of
   bronchospasm, fluid overload in setting of procedure and hypertension.
   Also on differential progression of multifocal pneumonia. Intubated
   from noninvasives [**12-20**] resp distress with difficulty ventilating and inc
   work of breathing. Failed SBT on [**6-12**].  Tolerating PSV 5, PEEP 10, FIO2
   40%.  Decreased amount of secretions, fluid status improved, and
   resolution of met alkalosi all positives for successful extubation.
   No gag reflex and possible new infiltrate on CXR could hinder
   successful extubation.
   - cont intermittent noninvasives from high flow
   - cont nebs
   - ABGs prn
   - cont PNA treatment as below
   .
   # Pneumonia: Multifocal pneumonia BAL growing 2 strains of resistant
   pseudomonas (sensitivities above).  CXR w/ possible new infiltrate on
   LLL.  Received IVIG yesterday as per ID.
   - cont tobra D5/Zosyn D2 for pseudomonas PNA tx, total course 15 days.
   - cont vori ppx dosing.
   - cont to f/u WBC and fever curve
   - AM Cx-ray
   - f/u tobra peak and trough
   .
   #RLE rash:  Pt w/ RLE rash that is now decreasing in size. It is
   erythematous and warm, possibly new cellulitis as pt is prone to skin
   infections becaue of his GVHD.  Pt remains afebrile w/ stable WBC. Vanc
   level 30.4
   - cont vancomycin to cover possible MRSA cellulitis (7 day course)
   - will hold vanc today as level 30.4
   - cont to monitor and eval for improvement
   - f/u WBC and fever curve
   # Anemia: Hct drop from 29.2 to 25.1 today.  No obvious source of
   bleed.  Pt has had this in the past.
   - f/u hemolysis labs
   - f/u [**Hospital1 **] Hct
   - can CT scan if pt Hct drops
   .
   # Pain:  Pt c/o persistent abdominal pain, not well controlled w/
   fentanyl drip.
   - cont  IV methadone titration as per pain
   - cont fentanyl patch
   - dc PCA
   .
   # Hypotension/Hypertension: Patient was hypotensive in the setting of
   antihypertensives and diuresis post-bronch.  Hypotension has resolved.
   Pt
s anti-HTN had been held in setting of hypoTN, but now SBP
s in the
   130s-150s range which is improved from before.
   - cont metoprolol 50mg TID
   - cont to monitor HR and BP closely
   .
   # CML/Chronic GVHD:
   - Cont bactrim, acyclovir and vori for PPX
   - cont home dose steroids and cellcept
   - re-start budesonide when pt can take POs
   - f/u BMT recs
   .
   # History of PE:
   - On lovenox
   .
   # Transaminitis: AST and ALT now almost at baseline.  AP and LDH mildly
   elevated from previous measurement.  Possibly due to GVHD.  MRI liver
   negative or acute process.   LFTs trending down.
   - will cont to trend AM LFT
   .
   .
   #Contraction alkalosis:  Pt w/ contraction alkalosis as a result of
   aggressive diuresis on [**6-13**].  Aggresively repleted lytes, added diamox
   (now finished) and alkalemia improved. No longer active issue.
   - cont monitor lytes
   .
   #Hypernatremia:  Now resolved Na 139.  Currently receiving tube feeds
   w/ free water flushes.
   - cont monitor lytes
   Nutrition: Clear liquids
   Glycemic Control:
   Lines:
   PICC Line - [**2124-6-8**] 03:42 PM
   Multi Lumen - [**2124-6-8**] 09:22 PM
   Arterial Line - [**2124-6-9**] 01:29 AM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:
   Code status: Full code
   Disposition: ICU level of care
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portion
   of the services provided. I have reviewed Dr [**Last Name (STitle) **]
s note above and I
   agree with his findings and plan of care.   Mr [**Known lastname **] is s/p
   extubation 2 days ago following an episode of acute respiratory failure
   caused by RUL pseudomal pneumonia and BAL in the setting of severe COPD
   with chronic hypercarbia.  The patient is tolerating BIPAP overnight,
   and his pain is improved with current IV methadone dosing.  We will
   closely follow lytes, hct, and ABG
s while continuing broad spectrum
   abx and Rx for his GVHD.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2045**], MD
   (40min spent in the care of this critically ill pt)
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2124-6-17**] 03:18 PM ------

2124-06-18 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --off BiPAP, on high flow tolerated well, put on BiPAP 16/5 at 4am for
   hypercarbic resp failure. ABG at the time 7.23/84/120/37, current
   7.33/64/103/35
   --Hct stable 27.0
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2124-6-16**] 06:01 AM
   Vancomycin - [**2124-6-16**] 08:18 PM
   Acyclovir - [**2124-6-16**] 08:18 PM
   Bactrim (SMX/TMP) - [**2124-6-16**] 08:18 PM
   Voriconazole - [**2124-6-17**] 09:49 PM
   Tobramycin - [**2124-6-18**] 12:01 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-6-18**] 05:42 AM
   Infusions:
   Other ICU medications:
   Methadone Hydrochloride - [**2124-6-17**] 08:57 PM
   Enoxaparin (Lovenox) - [**2124-6-18**] 05:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-6-18**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.5
   HR: 61 (60 - 85) bpm
   BP: 117/57(77) {105/50(70) - 145/66(90)} mmHg
   RR: 11 (11 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.5 kg (admission): 77.5 kg
   Height: 67 Inch
    CVP: 12 (7 - 27)mmHg
   Total In:
                                                                  1,840 mL
                                                                    351 mL
   PO:
                                                                    960 mL
   TF:
   IVF:
                                                                    880 mL
                                                                    351 mL
   Blood products:
   Total out:
                                                                  2,253 mL
                                                                    464 mL
   Urine:
                                                                  2,253 mL
                                                                    464 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -413 mL
                                                                   -113 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 544 (544 - 544) mL
   RR (Spontaneous): 15
   FiO2: 40%
   SpO2: 99%
   ABG: 7.33/64/103/31/5
   Ve: 5.4 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General: Chronically ill appearing, awake, alert, nad
   HEENT: Sclera anicteric,
   Neck: supple, JVP difficult to assess, no LAD
   Lungs: Clear to auscultation bilaterally, bibasilar crackles, no
   wheezes, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft,  mildly tender, mildly distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: 1+ pitting edema b/l (improving), Warm, well perfused, 2+ pulses,
   no clubbing, cyanosis
   Skin:  multiple echymoses and lesions, decreased area of erythema on
   RLE.
   Labs / Radiology
   217 K/uL
   8.6 g/dL
   84 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.2 mEq/L
   24 mg/dL
   106 mEq/L
   143 mEq/L
   27.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2124-6-17**]  04:31 AM
                             [**2124-6-17**]  12:21 PM
                             [**2124-6-17**]  02:23 PM
                             [**2124-6-17**]  05:40 PM
                             [**2124-6-17**]  06:04 PM
                             [**2124-6-17**]  08:21 PM
                             [**2124-6-18**]  03:14 AM
                             [**2124-6-18**]  04:08 AM
                             [**2124-6-18**]  05:42 AM
                             [**2124-6-18**]  06:53 AM
   WBC
   6.2
   Hct
   25.6
   27.0
   Plt
   217
   Cr
   0.7
   0.6
   TCO2
   35
   34
   34
   35
   34
   37
   35
   35
   Glucose
   145
   84
   Other labs: PT / PTT / INR:11.2/29.0/0.9, ALT / AST:44/37, Alk Phos / T
   Bili:555/0.3, Differential-Neuts:84.5 %, Band:0.0 %, Lymph:8.8 %,
   Mono:4.8 %, Eos:1.7 %, Lactic Acid:0.5 mmol/L, Albumin:2.4 g/dL,
   LDH:274 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   58M with h/o CML, failed Gleevac, s/p HSCT in [**9-22**] complicated by GVHD
   on chronic suppression, history of PE a/w multifocal pneumonia, who
   presents to the [**Hospital Unit Name 44**] following bronchoscopy complicated by respiratory
   distress that required intubation, and then difficult extubation.
   .
   # Respiratory failure:  Felt to be secondary to components of
   bronchospasm, fluid overload in setting of procedure and hypertension.
   Also on differential progression of multifocal pneumonia. Intubated
   from noninvasives [**12-20**] resp distress with difficulty ventilating and inc
   work of breathing. Failed SBT on [**6-12**].  Extubated on [**6-14**], tolerated
   high flow all day yesterday, developed hypercarb resp failure at 4am,
   put on BiPAP 16/5. Off BiPAP at around 9am. On IV methadone which could
   be contributing to resp depression.
   - off non-invasives, cont high flow as tolerated
   - [**Hospital1 **] abgs
   - increase IV methadone interval to q6h
   - cont nebs
   - cont PNA treatment as below
   - f/u pm CXR
   - maintain sats to 92-95%
   - UOP (-) 500mL-1L
   .
   # Pneumonia: Multifocal pneumonia BAL growing 2 strains of resistant
   pseudomonas (sensitivities above).  CXR w/ possible worsening RLL
   opacity, LL w/ increasing interstitial markings.
   - cont tobra D6/Zosyn D3 for pseudomonas PNA tx, total course 15 days
   (starting on the day Zosyn started).
   - cont vori ppx dosing.
   - cont to f/u WBC and fever curve
   - pm Cx-ray
   - f/u tobra peak and trough today
   .
   #RLE rash:  Pt w/ RLE rash that is now decreasing in size. It is
   erythematous and warm, possibly cellulitis as pt is prone to skin
   infections becaue of his GVHD.  Pt remains afebrile w/ stable WBC. Vanc
   level 16.5.
   - on vancomycin to cover possible MRSA cellulitis (7 day course)
   - will hold vanc today as level >15
   - cont to monitor and eval for improvement
   - f/u WBC and fever curve
   # Anemia: Hct stable at 27.0 today.  Hemolysis labs (-).
   - f/u am Hct
   - consider CT scan if pt Hct drops dramatically
   .
   # Pain:  Pt c/o persistent abdominal pain, not well controlled w/
   fentanyl drip.  Now reasonably controlled, but could be contributing to
   hypercarbia
   - increase IV methadone interval to q6h
   - decrease fentanyl patch to 300 mcg
   .
   # Hypotension/Hypertension: Patient was hypotensive in the setting of
   antihypertensives and diuresis post-bronch.  Hypotension has resolved.
   Pt
s anti-HTN had been held in setting of hypoTN, but now SBP
s in the
   100-140s range which is improved from before.
   - cont metoprolol 50mg TID
   - cont to monitor HR and BP closely
   .
   # CML/Chronic GVHD:
   - Cont bactrim, acyclovir and vori for PPX
   - cont home dose steroids and cellcept
   - re-start budesonide when pt can take POs
   - f/u BMT recs
   .
   # History of PE:
   - On lovenox
   .
   # Transaminitis: AST and ALT now almost at baseline.  AP and LDH mildly
   elevated from previous measurement.  Possibly due to GVHD.  MRI liver
   negative or acute process.   LFTs trending down.
   - will cont to trend AM LFT
   .
   .
   #Contraction alkalosis:  Pt w/ contraction alkalosis as a result of
   aggressive diuresis on [**6-13**].  Aggresively repleted lytes, added diamox
   (now finished) and alkalemia improved. No longer active issue.
   - cont monitor lytes
   .
   #Hypernatremia:  Now resolved Na 139.  Currently receiving tube feeds
   w/ free water flushes.
   - cont monitor lytes
   ICU Care:
   Nutrition: Full liquids
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2124-6-8**] 03:42 PM
   Multi Lumen - [**2124-6-8**] 09:22 PM
   Arterial Line - [**2124-6-9**] 01:29 AM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:
   Code status: Full code
   Disposition: ICU level of care
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 9845**]
s note above and
   agree with his findings and plan of care.  The patient did well off
   BIPAP until 4am yesterday then was noted to have PC02 of84 and pH of
   7.23 with P02 of 120.  With BIPAP this am his abg
s show: 7.34/59/101,
   quite good for him.  I suspect his hypercarbia last night was due to a
   combination of severe COPD, high dose opiates, hyperoxia with reduction
   in [**Street Address(1) 9846**], fatigue, and the sleep state.  The goal hence
   forth will be to rest him on BIPAP every night and encourage
   spontaneous breathing every day all day, and avoid excess opiates and
   Fio2 (keep sat 95% max).
   His CXR looks worse on the left (?effusion, ?aspiration).  We
ll run
   him negative today and repeat film later.  If equivocal finding I would
   have low threshold for doing a CT of the thorax.
   He needs nutrition and ng tube will interfere with BIPAP. I would
   advance him to full liquids during the day and stop feedings several
   hrs before bedtime BIPAP.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2045**], MD
   (45 min spent in the care of this critically ill pt)
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2124-6-18**] 05:46 PM ------

2124-06-19 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**6-18**]
   --pt felt that he had slight inc work of breathing on high flow in late
   evening, was placed on BIPAP 5/5
   --LENIs ordered per ID, will be done today
   --pain service: Methadone reverse PRN interval to q-6hrs; decrease
   fentanyl patch 300mcg
   --HCT down this AM to 24.3 from 27, no e/o hemolysis, added on hapto,
   will defer giving pRBC till rounds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-6-16**] 08:18 PM
   Bactrim (SMX/TMP) - [**2124-6-16**] 08:18 PM
   Voriconazole - [**2124-6-17**] 09:49 PM
   Vancomycin - [**2124-6-18**] 09:08 PM
   Tobramycin - [**2124-6-19**] 12:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-6-19**] 06:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-6-18**] 07:59 AM
   Furosemide (Lasix) - [**2124-6-18**] 10:10 AM
   Methadone Hydrochloride - [**2124-6-18**] 08:50 PM
   Enoxaparin (Lovenox) - [**2124-6-19**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-6-19**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 65 (55 - 81) bpm
   BP: 138/67(91) {100/50(66) - 138/67(91)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 77.5 kg
   Height: 67 Inch
    CVP: 12 (7 - 31)mmHg
   Total In:
                                                                  1,600 mL
                                                                    339 mL
   PO:
                                                                    520 mL
   TF:
   IVF:
                                                                  1,080 mL
                                                                    339 mL
   Blood products:
   Total out:
                                                                  2,158 mL
                                                                    410 mL
   Urine:
                                                                  2,158 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -558 mL
                                                                    -71 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 601 (482 - 623) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 97%
   ABG: 7.36/67/94.[**Numeric Identifier 128**]/35/8
   Ve: 7.5 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General: Chronically ill appearing, awake, alert, nad
   HEENT: Sclera anicteric,
   Neck: supple, JVP difficult to assess, no LAD
   Lungs: Clear to auscultation bilaterally, bibasilar crackles, no
   wheezes, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft,  mildly tender, mildly distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: 1+ pitting edema b/l (improving), Warm, well perfused, 2+ pulses,
   no clubbing, cyanosis
   Skin:  multiple echymoses and lesions, decreased area of erythema on
   RLE.
   Labs / Radiology
   220 K/uL
   7.9 g/dL
   115 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.1 mEq/L
   20 mg/dL
   102 mEq/L
   141 mEq/L
   24.3 %
   4.0 K/uL
        [image002.jpg]
                             [**2124-6-18**]  04:08 AM
                             [**2124-6-18**]  05:42 AM
                             [**2124-6-18**]  06:53 AM
                             [**2124-6-18**]  09:06 AM
                             [**2124-6-18**]  02:24 PM
                             [**2124-6-18**]  04:26 PM
                             [**2124-6-18**]  07:35 PM
                             [**2124-6-18**]  11:34 PM
                             [**2124-6-19**]  03:45 AM
                             [**2124-6-19**]  06:10 AM
   WBC
   4.0
   Hct
   24.3
   Plt
   220
   Cr
   0.6
   0.6
   TCO2
   37
   35
   35
   33
   34
   37
   39
   39
   Glucose
   98
   115
   Other labs: PT / PTT / INR:11.2/29.0/0.9, ALT / AST:43/45, Alk Phos / T
   Bili:598/0.3, Differential-Neuts:88.0 %, Band:0.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:1.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL,
   LDH:239 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   .
   Hapto pending, tobra 7.9 (peak) 1.4 trough
   .
   [**6-13**] Blood cx pending
   .
   CXR- L subclavian line in place, increased R lower lung field haziness,
   difficult to assess costophrenic angles
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   58M with h/o CML, failed Gleevac, s/p HSCT in [**9-22**] complicated by GVHD
   on chronic suppression, history of PE a/w multifocal pneumonia, who
   presents to the [**Hospital Unit Name 44**] following bronchoscopy complicated by respiratory
   distress that required intubation, and then difficult extubation.
   .
   # Respiratory failure:  Felt to be secondary to components of
   bronchospasm, fluid overload in setting of procedure and hypertension.
   Also on differential progression of multifocal pneumonia. Intubated
   from noninvasives [**12-20**] resp distress with difficulty ventilating and inc
   work of breathing. Failed SBT on [**6-12**].  Extubated on [**6-14**], tolerated
   high flow all day yesterday, developed hypercarb resp failure at 4am,
   put on BiPAP 16/5. Off BiPAP at around 9am. On IV methadone which could
   be contributing to resp depression.
   - off non-invasives, cont high flow as tolerated
   - [**Hospital1 **] abgs
   - increase IV methadone interval to q6h
   - cont nebs
   - cont PNA treatment as below
   - f/u pm CXR
   - maintain sats to 92-95%
   - UOP (-) 500mL-1L
   .
   # Pneumonia: Multifocal pneumonia BAL growing 2 strains of resistant
   pseudomonas (sensitivities above).  CXR w/ possible worsening RLL
   opacity, LL w/ increasing interstitial markings.
   - cont tobra D6/Zosyn D3 for pseudomonas PNA tx, total course 15 days
   (starting on the day Zosyn started).
   - cont vori ppx dosing.
   - cont to f/u WBC and fever curve
   - pm Cx-ray
   - f/u tobra peak and trough today
   .
   #RLE rash:  Pt w/ RLE rash that is now decreasing in size. It is
   erythematous and warm, possibly cellulitis as pt is prone to skin
   infections becaue of his GVHD.  Pt remains afebrile w/ stable WBC. Vanc
   level 16.5.
   - on vancomycin to cover possible MRSA cellulitis (7 day course)
   - will hold vanc today as level >15
   - cont to monitor and eval for improvement
   - f/u WBC and fever curve
   # Anemia: Hct stable at 27.0 today.  Hemolysis labs (-).
   - f/u am Hct
   - consider CT scan if pt Hct drops dramatically
   .
   # Pain:  Pt c/o persistent abdominal pain, not well controlled w/
   fentanyl drip.  Now reasonably controlled, but could be contributing to
   hypercarbia
   - increase IV methadone interval to q6h
   - decrease fentanyl patch to 300 mcg
   .
   # Hypotension/Hypertension: Patient was hypotensive in the setting of
   antihypertensives and diuresis post-bronch.  Hypotension has resolved.
   Pt
s anti-HTN had been held in setting of hypoTN, but now SBP
s in the
   100-140s range which is improved from before.
   - cont metoprolol 50mg TID
   - cont to monitor HR and BP closely
   .
   # CML/Chronic GVHD:
   - Cont bactrim, acyclovir and vori for PPX
   - cont home dose steroids and cellcept
   - re-start budesonide when pt can take POs
   - f/u BMT recs
   .
   # History of PE:
   - On lovenox
   .
   # Transaminitis: AST and ALT now almost at baseline.  AP and LDH mildly
   elevated from previous measurement.  Possibly due to GVHD.  MRI liver
   negative or acute process.   LFTs trending down.
   - will cont to trend AM LFT
   .
   .
   #Contraction alkalosis:  Pt w/ contraction alkalosis as a result of
   aggressive diuresis on [**6-13**].  Aggresively repleted lytes, added diamox
   (now finished) and alkalemia improved. No longer active issue.
   - cont monitor lytes
   .
   #Hypernatremia:  Now resolved Na 139.  Currently receiving tube feeds
   w/ free water flushes.
   - cont monitor lytes
   ICU Care
   Nutrition: Full liquids
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2124-6-8**] 03:42 PM
   Multi Lumen - [**2124-6-8**] 09:22 PM
   Arterial Line - [**2124-6-9**] 01:29 AM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:
   Code status: Full code
   Disposition: ICU level of care

2124-06-19 11:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, COPD, GVH disease, bronchiectasis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ABG on 4L nasal oxygen improved last night. Still intermittently on
   BiPAP.
   Hct 24.3 this AM; no evidence of bleeding. Hemolysis labs sent.
   Fluid balance negative yesterday.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-6-16**] 08:18 PM
   Bactrim (SMX/TMP) - [**2124-6-16**] 08:18 PM
   Tobramycin - [**2124-6-19**] 12:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-6-19**] 06:05 AM
   Voriconazole - [**2124-6-19**] 07:41 AM
   Vancomycin - [**2124-6-19**] 09:00 AM
   Infusions:
   Other ICU medications:
   Methadone Hydrochloride - [**2124-6-18**] 08:50 PM
   Enoxaparin (Lovenox) - [**2124-6-19**] 06:05 AM
   Other medications:
   Budesonide, Tums, insulin, cellcept, colace, prednisone, lido patch,
   voriconazole, vanco/zosyn, fentanyl patch.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-6-19**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.1
   HR: 73 (55 - 81) bpm
   BP: 129/60(82) {100/50(66) - 140/67(92)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 77.5 kg
   Height: 67 Inch
   CVP: 14 (7 - 31)mmHg
   Total In:
                                                                  1,600 mL
                                                                  1,108 mL
   PO:
                                                                    520 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,080 mL
                                                                    628 mL
   Blood products:
   Total out:
                                                                  2,158 mL
                                                                    605 mL
   Urine:
                                                                  2,158 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -558 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 601 (482 - 623) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 99%
   ABG: 7.36/57/89.[**Numeric Identifier 128**]/35/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Heart sounds very soft
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Few, No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Diminished breath sounds bilaterally. Prolonged expiratory phase
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: , Obese
   Extremities: Right: 1+ edema, Left: 1+ edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: Right lower leg, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   220 K/uL
   115 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.1 mEq/L
   20 mg/dL
   102 mEq/L
   141 mEq/L
   24.3 %
   4.0 K/uL
        [image002.jpg]
                             [**2124-6-18**]  05:42 AM
                             [**2124-6-18**]  06:53 AM
                             [**2124-6-18**]  09:06 AM
                             [**2124-6-18**]  02:24 PM
                             [**2124-6-18**]  04:26 PM
                             [**2124-6-18**]  07:35 PM
                             [**2124-6-18**]  11:34 PM
                             [**2124-6-19**]  03:45 AM
                             [**2124-6-19**]  06:10 AM
                             [**2124-6-19**]  09:21 AM
   WBC
   4.0
   Hct
   24.3
   Plt
   220
   Cr
   0.6
   0.6
   TCO2
   35
   35
   33
   34
   37
   39
   39
   34
   Glucose
   98
   115
   Other labs: PT / PTT / INR:11.2/29.0/0.9, ALT / AST:43/45, Alk Phos / T
   Bili:598/0.3, Differential-Neuts:88.0 %, Band:0.0 %, Lymph:4.0 %,
   Mono:6.0 %, Eos:1.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL,
   LDH:239 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: RUL infiltrate. No significant change from previous film.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ANEMIA
   PNEUMONIA
   Patient feels respiratory comfort much greater today. Oxygenation
   clearly improved. Reduce nasal oxygen to 2L/min.  Maintain fluid status
   even to slightly negative. Continue antibiotics for pneumoina. Pain
   under better control.
   Hct 24.3 today. No evidence of bleeding. Not yet at transfusion
   threshold.
   ICU Care
   Nutrition: Oral
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2124-6-8**] 03:42 PM
   Multi Lumen - [**2124-6-8**] 09:22 PM
   Arterial Line - [**2124-6-9**] 01:29 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes